datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9](=[C:10]([H:12])[H:13])[H:11],0.4184
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([O:22][O:23])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:23][O:22][C:21]([C:20]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:29])[H:30])([H:31])[H:32])([H:33])[H:34],74.0568
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:21])([H:22])[H:23])([H:20])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],35.0201
[C:0]1([H:7])=[C:1]([H:8])[C:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1[C:6]2([H:14])[H:15]>>[C:0]1([H:7])=[C:1]([H:8])[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:14])[H:15],93.7216
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])[H:4].[H:3][C:8]([H:9])([H:10])[H:11],69.57992
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][H:7],17.6146
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],86.0063
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:9],45.5219
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8][O:9])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:9][O:8][C:7]([H:10])([H:11])[H:12],97.269632
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:20])[H:21])[H:19])=[C:11]([C:12](=[C:13]([H:23])[H:24])[H:22])[C:14](=[C:15]([H:26])[H:27])[H:25])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:16])[H:17])[H:18])([C:9](=[C:10]([H:20])[H:21])[H:19])[C:11]([C:12](=[C:13]([H:23])[H:24])[H:22])[C:14](=[C:15]([H:26])[H:27])[H:25])[H:3],31.2545
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],114.817
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26],42.5513
[C:0](#[C:1][C:2]([O:3][C:4]([H:8])([H:9])[H:10])([H:6])[H:7])[H:5].[H:11]>>[C:0](#[C:1][C:2]([H:6])[H:7])[H:5].[O:3]([C:4]([H:8])([H:9])[H:10])[H:11],70.5619
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:6],68.4084
[H:0].[c:1]1([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18]>>[H:0][H:14].[c:1]1([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5][c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18],62.647032
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])[H:11],41.5053
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8][S:9][H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8](=[C:7]([H:10])[H:11])[S:9][H:12],-7.5312
